US07449585B2
Step 1: 2-Azido-4-bromobenzoic acid
To a solution of 2-amino-4-bromobenzoic acid (8.4 g, 0.039 mol) in a mixture of concentrated HCl (70 mL) and H2O (100 mL) was added a solution of NaNO2 (2.8 g, 0.044 mol) in H2O (40 mL) such that the reaction temperature did not rise above 5° C. After addition was complete the resulting slurry was stirred for 15 min and the cold mixture added in aliquots to a solution of NaN3 (2.5 g, 0.039 mol) and NaOAc (38 g, 0.47 mol) in H2O (80 mL) at room temperature. The resulting slurry was stirred for 30 min and the solid collected by filtration giving 6.4 g (68% yield) of product as a tan powder. 1H NMR (360 MHz, DMSO): 7.46 (1H, dd, J 1.4 and 7.5 Hz), 7.57 (1H, d, J 1.4 Hz), 7.70 (1H, d, J 7.5 Hz).

reactant | 2-amino-4-bromobenzoic acid | 0.039 mol, 8.4 g | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
reactant | HCl | 70 mL | Cl | ClH
reactant | NaNO2 | 0.044 mol, 2.8 g | N(=O)[O-].[Na+]
reactant | NaN3 | 0.039 mol, 2.5 g | [N-]=[N+]=[N-].[Na+]
reactant | NaOAc | 0.47 mol, 38 g | CC(=O)[O-].[Na+]
solvent | H2O | 40 mL | O | H2O
solvent | H2O | 80 mL | O | H2O
solvent | H2O | 100 mL | O | H2O
product | 2-Azido-4-bromobenzoic acid | 6.4 g, 68% yield | N(=[N+]=[N-])C1=C(C(=O)O)C=CC(=C1)Br | C7H4BrN3O2
